US08633212B2
To a solution of dimethyl 3-hydroxypentanedioate (9 g, 51.1 mmol) in DMF (70 mL) was added Ag2O (35.5 g, 154.3 mmol) and iodomethane (48.2 g, 339.2 mmol) under ice-cooling. The mixture was stirred at room temperature overnight. The mixture was filtrated and the filtrate was washed with water. Ether was added and the organic layer was dried and concentrated to give the crude product, which was purified by column chromatography to give dimethyl 3-methoxypentanedioate (8 g, 82%). 1H-NMR (CDCl3): 2.48 (m, 4H), 3.21 (m, 3H), 3.50 (m, 6H), 3.85 (s, 1H).

reactant | dimethyl 3-hydroxypentanedioate | 51.1 mmol, 9 g | OC(CC(=O)OC)CC(=O)OC | C7H12O5
reactant | iodomethane | 339.2 mmol, 48.2 g | IC | CH3I
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | dimethyl 3-methoxypentanedioate | 8 g, 82% | COC(CC(=O)OC)CC(=O)OC | C8H14O5
